US06187774B1
In the same manner as in Example 102 except that 4-(4,5,6,7-tetrahydro-2H-indazol-3-yl)-n-butyric acid obtained in Starting Material Synthesis Example 3 and 1-(2-pyridyl)piperazine were used instead of 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid obtained in Starting Material Synthesis Example 1 and 4-(4chlorophenyl)piperidine, 3-(4-(4-(2-pyridyl)piperazin-1-yl)butyl)-4,5,6,7-tetrahydro-2H-indazole was obtained.

reactant | 1-(2-pyridyl)piperazine | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | 3-(4,5,6,7-tetrahydro-2H-indazol-3-yl)propionic acid | N=1NC(=C2CCCCC12)CCC(=O)O | C10H14N2O2
reactant | 4-(4chlorophenyl)piperidine | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
product | 3-(4-(4-(2-pyridyl)piperazin-1-yl)butyl)-4,5,6,7-tetrahydro-2H-indazole | N1=C(C=CC=C1)N1CCN(CC1)CCCCC=1NN=C2CCCCC12 | C20H29N5
